US08304446B2
3-{[3-Amino-6-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile
Potassium hydroxide (85% pure, 0.84 g, 12.7 mmol) was powdered and added to DMSO (25 mL) and the mixture was stirred for 5 min. A solution of 1:1 mixture of 6-fluoro-4-(methyloxy)-1H-indazol-3-amine and 4-fluoro-6-(methyloxy) regioisomer) (1.085 g, 6 mmol) in DMSO (5 mL) was added and the mixture was stirred for 5 min. The colour of the reaction mixture turned to dark red. Solid 3-(chloromethyl)benzonitrile (1.0 g, 7.1 mmol) was added and the mixture stirred for 1 h. The mixture was diluted with water, treated with 2M HCl (3 mL) and extracted with ethyl acetate. The organic solution was washed with water (4 times) and once with brine, dried (MgSO4) and evaporated. The residue was dissolved in DCM and MeOH and pre-absorbed on florisil (5 g). The pre-absorbed compound was placed on two 100 g Silica cartridges and purified by chromatography on Flashmaster using a 0-100% ethyl acetate-cyclohexane over 60 min. The appropriate fractions (RT=48 min) were evaporated under reduced pressure to give impure title compound as an orange solid. This required further purification and was pre-absorbed on florisil and purified by chromatography on Flashmaster silica 100 g using a 0-100% ethyl acetate-cyclohexane over 100 min. The appropriate fractions (RT=46-70 min) were combined and evaporated in vacuo to give the title compound (362 mg, 20%) as a yellow solid: LCMS (System A) RT=0.96 min, ES+ve m/z 297 (M+H)+, NMR δ (CDCl3) 7.57-7.53 (1H, m), 7.43-7.38 (3H, m), 6.37 (1H, dd, J 10, 2 Hz), 6.15 (1H, dd, J 12, 2 Hz), 5.23 (2H, s), 4.45 (2H, br), 3.94 (3H, s).

reactant | Potassium hydroxide | 12.7 mmol, 0.84 g | [OH-].[K+]
reactant | 6-fluoro-4-(methyloxy)-1H-indazol-3-amine | FC1=CC(=C2C(=NNC2=C1)N)OC | C8H8FN3O
reactant | 3-(chloromethyl)benzonitrile | 7.1 mmol, 1.0 g | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
reactant | HCl | 2M, 3 mL | Cl | ClH
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 3-{[3-Amino-6-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile | NC1=NN(C2=CC(=CC(=C12)OC)F)CC=1C=C(C#N)C=CC1 | C16H13FN4O
